US06790860B2
To a solution of triphenylphosphine (2.92 g) in tetrahydrofuran (30 ml) was added diisopropylazodicarboxylate (2.20 ml) within 5 minutes at 0° C. The solution was stirred for 0.5 h at 0° C., then a solution of (3R,5S)-5-benzyloxymethyl-1-(naphthalene-2-sulfonyl)-pyrrolidin-3-ol (2.2 g) and thioacetic acid (0.81 ml) in tetrahydrofurane (10 ml) were added to the suspension within 0.5 h at 0° C. Stirring was continued for 1 h at 0° C. and 1 h at room temperature. The reaction mixture was concentrated, and the residue was chromatographed on silica gel using EtOAc/hexane 1:4 and 1:3 as eluents to obtain (3S,5S)-thioacetic acid S-[5-benzyloxymethyl-1-(naphthalene-2-sulfonyl)-pyrrolidin-3-yl] ester (2.1 g) as a syrup, MS: 456 (MH+).

reactant | triphenylphosphine | 2.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 2.20 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (3R,5S)-5-benzyloxymethyl-1-(naphthalene-2-sulfonyl)-pyrrolidin-3-ol | 2.2 g | C(C1=CC=CC=C1)OC[C@@H]1C[C@H](CN1S(=O)(=O)C1=CC2=CC=CC=C2C=C1)O | C22H23NO4S
reactant | thioacetic acid | 0.81 ml | C(C)(=S)O | C2H4OS
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
product | (3S,5S)-thioacetic acid S-[5-benzyloxymethyl-1-(naphthalene-2-sulfonyl)-pyrrolidin-3-yl] ester | 2.1 g | C(C1=CC=CC=C1)OC[C@@H]1C[C@@H](CN1S(=O)(=O)C1=CC2=CC=CC=C2C=C1)SC(C)=O | C24H25NO4S2
